US06136823
Synthesis of 4-Fluoro-3-methoxyaniline
3,4-Difluoroaniline (2.6 g) was added to a 28% methanol solution of sodium methoxide, and the mixture was heated for 2 days at about 60° C. and for 4 days at 110° C. After distilled water (50 ml) was added to the reaction mixture, it was extracted with chloroform (50 ml). A chloroform layer was washed with distilled water (20 ml) and then dried over anhydrous magnesium sulfate. The dry chloroform layer was concentrated under reduced pressure to obtain the title compound (2.8 g) as a dark brown oil.

reactant | 3,4-Difluoroaniline | 2.6 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Fluoro-3-methoxyaniline | 2.8 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
